US04031107
HBr was passed into a cooled (0° -5° C.) solution of 1.05 grams of 1-(methylcarbamoyloxy)-5,6-dichloro-2 -(trifluoromethyl) benzimidazole in 40 milliliters of methanol. The reaction mixture was permitted to stand for twenty minutes, then evaporated to obtain as a residue 5,6-dichloro-2-(trifluoromethyl) benzimidazole. After recrystallization from chloroform, it melted at 233° -5° C.

reactant | HBr | Br | BrH
reactant | 1-(methylcarbamoyloxy)-5,6-dichloro-2 -(trifluoromethyl) benzimidazole | 1.05 grams | CNC(=O)ON1C(=NC2=C1C=C(C(=C2)Cl)Cl)C(F)(F)F | C10H6Cl2F3N3O2
solvent | methanol | 40 milliliters | CO | CH4O
product | 5,6-dichloro-2-(trifluoromethyl) benzimidazole | ClC1=CC2=C(N=C(N2)C(F)(F)F)C=C1Cl | C8H3Cl2F3N2
